US07632952B2
2nd step: A solution of 103 mg of 4-({6-[4-(3-imidazol-1-ylpropylamino)-benzenesulfonyloxy]benzothiazol-2-ylcarbamoyl}methyl)piperidine-1-carboxylic acid tert-butyl ester, 2 ml of dioxane and 2 ml of 4N hydrochloric acid in dioxane is stirred for 3 hours at room temperature. The precipitate obtained is filtered off and washed with dioxane and ethyl ether to give 110 mg of 4-(2-isopropylaminoethylamino)benzenesulfonic acid 2-(2-piperid-4-ylacetylamino)benzothiazol-6-yl ester hydrochloride (white powder) in a yield of 88%.

reactant | 4-({6-[4-(3-imidazol-1-ylpropylamino)-benzenesulfonyloxy]benzothiazol-2-ylcarbamoyl}methyl)piperidine-1-carboxylic acid tert-butyl ester | 103 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)CC(NC=1SC2=C(N1)C=CC(=C2)OS(=O)(=O)C2=CC=C(C=C2)NCCCN2C=NC=C2)=O | C31H38N6O6S2
reactant | hydrochloric acid | 4N, 2 ml | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | dioxane | 2 ml | O1CCOCC1 | C4H8O2
product | 4-(2-isopropylaminoethylamino)benzenesulfonic acid 2-(2-piperid-4-ylacetylamino)benzothiazol-6-yl ester hydrochloride | 110 mg, yield of 88% | Cl.N1CCC(CC1)CC(=O)NC=1SC2=C(N1)C=CC(=C2)OS(=O)(=O)C2=CC=C(C=C2)NCCNC(C)C | InChI=1S/C25H33N5O4S2.ClH/c1-17(2)27-13-14-28-19-3-6-21(7-4-19)36(32,33)34-20-5-8-22-23(16-20)35-25(29-22)30-24(31)15-18-9-11-26-12-10-18;/h3-8,16-18,26-28H,9-15H2,1-2H3,(H,29,30,31);1H
